US07371750B2
A solution of 2-chloro-4-methylamino-pyrimidine-5-carbaldehyde (1.08 g, 6.3 mmol) and N-(3-amino-4-methyl-phenyl)-3-trifluoromethylbenzamide (2.04 g, 6.9 mmol) in MeOH (70 mL) is stirred for 2 hours at 45° C. and then treated with sodium cyanoborohydride (1.19 g, 18.9 mmol) and acetic acid (1 mL) sequentially. After stirring for 2 hours at room temperature, the reaction mixture is diluted with CHCl3 and washed with saturated NaHCO3 The organic layer is dried over MgSO4 and concentrated under reduced pressure. The residue is purified by flash column chromatography (SiO2, EtOAc/hexane=1/2) to give N-{3-[(2-chloro-4-methylaminopyrimidin-5-ylmethyl)amino]-4-methylphenyl}-3-trifluoromethylbenzamide (1.80 g, 64%) as a white solid.

reactant | 2-chloro-4-methylamino-pyrimidine-5-carbaldehyde | 6.3 mmol, 1.08 g | ClC1=NC=C(C(=N1)NC)C=O | C6H6ClN3O
reactant | N-(3-amino-4-methyl-phenyl)-3-trifluoromethylbenzamide | 6.9 mmol, 2.04 g | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C15H13F3N2O
reactant | sodium cyanoborohydride | 18.9 mmol, 1.19 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 70 mL | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[(2-chloro-4-methylaminopyrimidin-5-ylmethyl)amino]-4-methylphenyl}-3-trifluoromethylbenzamide | 1.80 g, 64% | ClC1=NC=C(C(=N1)NC)CNC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C21H19ClF3N5O
